OpenCircuit factory test: NTCLE100E3103JB0 transfer at 85 degC
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.vishay.com/docs/29049/ntcle100.pdf
* Revision: Document 29049, revision 07-May-2025
* Archetype: sensor_behavioral B-parameter NTC
* Node order: P N
.subckt OC_VISHAY_NTCLE100E3103JB0 P N params: TEMP_C=25
.param R0=1.0000000000e4 T0_C=2.5000000000e1 BETA=3.9770000000e3
RNTC P N R={max(R0*exp(BETA*(1/(TEMP_C+273.15)-1/(T0_C+273.15))),1e-4)}
.ends OC_VISHAY_NTCLE100E3103JB0

ITEST 0 sense DC 1u
X1 sense 0 OC_VISHAY_NTCLE100E3103JB0 TEMP_C=8.5000000000e1
RALL all 0 1G
.op
.end
